US07700641B2
Following the procedure as described in EXAMPLE 4.2, and making non-critical variations using 2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate to replace 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)-N-(2-fluorophenyl)acetamide, and pyridin-3-ylboronic acid to replace pyrimidine-5-boronic acid, 5-pyridin-3-yl-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one was obtained (74%) as a white solid, which was treated with HCl in ether to give the title compound: mp 98-100° C.; 1H NMR (300 MHz, CD3OD) δ 8.96 (br, 1H), 8.74-8.65 (m, 2H), 8.04 (dd, 1H), 7.73 (dd, 1H), 7.37 (dt, 1H), 7.25-7.09 (m, 5H), 6.95 (dd, 1H), 6.67 (d, 1H), 5.20-4.83 (m, 4H); 13C NMR (75 MHz, CD3OD) δ 175.7, 161.3, 151.1, 142.1, 140.2, 138.6, 137.5, 137.4, 130.0, 129.4, 128.1, 127.5, 125.6, 125.5, 122.3, 122.1, 120.8, 111.4, 111.3, 109.7, 108.1, 107.7, 78.7, 58.3, 34.9; MS (ES+) m/z 463.1 (M+1).

reactant | 2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CC=1OC(=CC1)C(F)(F)F)=O)CO2)(F)F | C22H13F6NO6S
reactant | 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)-N-(2-fluorophenyl)acetamide | BrC1=C2C3(C(N(C2=CC=C1)CC(=O)NC1=C(C=CC=C1)F)=O)COC1=C3C=C(C(=C1)F)F | C23H14BrF3N2O3
reactant | pyridin-3-ylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 5-pyridin-3-yl-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | N1=CC(=CC=C1)C=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CC=1OC(=CC1)C(F)(F)F)=O)CO2 | C26H17F3N2O3
